US06677349B1
Using the general method of Example 245 1-(3-aminopropyl)-2-butyl-1H-imidazo[4,5-c]quinolin-4-amine (1.5 g, 5.04 mmol) was reacted with p-toluenesulfonyl chloride (1.08 g, 5.55 mmol) to provide 1.57 g of N-[3-(4-amino-2-butyl-1H-imidazo[4,5-c]quinolin-1-yl)propyl]-4-methylbenzenesulfonamide as an off white powder, m.p. 197.0-198.5° C. Analysis: Calculated for C24H29N5O2S: %C, 63.83; %H, 6.47; %N, 15.51; Found: %C, 63.68; %H, 6.40; %N, 15.51.

reactant | 1-(3-aminopropyl)-2-butyl-1H-imidazo[4,5-c]quinolin-4-amine | 5.04 mmol, 1.5 g | NCCCN1C(=NC=2C(=NC=3C=CC=CC3C21)N)CCCC | C17H23N5
reactant | p-toluenesulfonyl chloride | 5.55 mmol, 1.08 g | C1(=CC=C(C=C1)S(=O)(=O)Cl)C | C7H7ClO2S
product | N-[3-(4-amino-2-butyl-1H-imidazo[4,5-c]quinolin-1-yl)propyl]-4-methylbenzenesulfonamide | 1.57 g | NC1=NC=2C=CC=CC2C2=C1N=C(N2CCCNS(=O)(=O)C2=CC=C(C=C2)C)CCCC | C24H29N5O2S
